US07977371B2
2-Aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide (Compound No. 3-1)
Boron tribromide in dichloromethane solution (17%, 5.8 mL, 5.8 mmol) was added dropwise to a suspension of 2-aminocarbonylamino-5-(2-methoxyphenyl)pyrrole-3-carboxamide (Compound No. 1-9, 0.40 g, 1.5 mmol) in anhydrous dichloromethane (8 mL) for 7 minutes at −78° C., and the mixture was stirred for 30 minutes. Moreover, the mixture was stirred under ice-cooling for 5 hours, water (25 mL) was added thereto. The precipitated solid was filtered off with chloroform, dried under reduced pressure to give the target compound (0.39 g) quantitatively as a gray solid.

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | 2-aminocarbonylamino-5-(2-methoxyphenyl)pyrrole-3-carboxamide | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)OC | C13H14N4O3
reactant | water | 25 mL | O | H2O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.8 mmol, 5.8 mL | ClCCl | CH2Cl2
product | 2-Aminocarbonylamino-5-(2-hydroxyphenyl)pyrrole-3-carboxamide | 0.39 g | NC(=O)NC=1NC(=CC1C(=O)N)C1=C(C=CC=C1)O | C12H12N4O3
